US07612075B2
Cbz-β-Alanine (5.0 g, 21.6 mmol) is dissolved in THF (10 mL). To this is added dropwise a solution of carbonyl diimidazole (3.5 g, 21.6 mmol) in THF (50 mL) and allowed to stir 16 hrs. This solution is then reduced to ˜30 mL by rotary evaporation. In a separate flask (oven dried), isopropyl magnesium chloride in THF (2M) (16.2 mL, 32 mmol) is added and cooled to 0° C. and hydrogen ethyl malonate (4.28 g, 32.4 mmol) is added dropwise. The contents are allowed to stir at 0° C. for 30 min, allowed to warm to 25° C. and continue stirring for another 30 min, and finally warmed to 40° C. for 30 min. The contents are then cooled to 0° C. and the contents of the first flask are added dropwise. The reaction is allowed to gradually come to 25° C. and continue stirring for 4 hrs. The reaction is poured into 100 mL of ice cold 1 N H3PO4 and allowed to stir for 30 min. The contents are extracted (3×100 mL) with ethyl acetate. The combined organic layers are then washed (3×100 mL) with saturated sodium bicarbonate followed by (3×100 mL) with brine. The organic layer is dried over MgSO4, filtered and reduced to an oil by rotary evaporation to provide 5-benzyloxycarbonylamino-3-oxo-pentanoic acid ethyl ester. The product is used as is without further purification. 1H NMR (300 MHz, CDCl3) δ 7.32 (s, 5H), 5.25 (bm, 1H), 5.06 (s, 2H), 4.17 (q, 2H), 3.42 (m, 5H), 2.78 (t, 2H), 1.25 (t, 3H); MS (ion spray) 294 (M+H)+.

reactant | Cbz-β-Alanine | 21.6 mmol, 5.0 g | C(=O)(OCC1=CC=CC=C1)NCCC(=O)O | C11H13NO4
reactant | carbonyl diimidazole | 21.6 mmol, 3.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | hydrogen ethyl malonate | 32.4 mmol, 4.28 g | C(CC(=O)OCC)(=O)O | C5H8O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 32 mmol, 2M, 16.2 mL | C1CCOC1 | C4H8O
product | 5-benzyloxycarbonylamino-3-oxo-pentanoic acid ethyl ester | C(C)OC(CC(CCNC(=O)OCC1=CC=CC=C1)=O)=O | C15H19NO5
